US06410592B1
A: Methyl-2-[cis-N-methyl-N-(6-methoxy-1-phenyl-1,2,3,4-tetrahydronaphthalen-2-ylmethyl) amino]propionate
To a mixture of cis-6-methoxy-2-methylaminomethyl-1-phenyl-1,2,3,4-tetrahydronaphthalene hydrochloride (1.00 g; prepared according to the procedures in Process 1), cesium carbonate (5.13 g) and N,N-dimethylformamide (20 cm3) was added methyl-2-bromopropionate (0.35 cm3) and the resultant mixture was stirred at 75° C. for 5 h. The reaction was then allowed to cool to room temperature and water (100 cm3) was added. The resulting mixture was extracted with diethyl ether (2×100 cm3) and the combined organic extracts were washed with water (100 cm3), dried (Na2SO4) and the solvent was removed under reduced pressure. The crude product (1.11 g) was purified by column chromatography [basic alumina, eluting with toluene-hexane (1:1)] to afford the title compound as a gum (284 mg); positive ion ESI (M+H)+ 368.4.

reactant | cis-6-methoxy-2-methylaminomethyl-1-phenyl-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.COC=1C=C2CC[C@@H]([C@@H](C2=CC1)C1=CC=CC=C1)CNC
reactant | cesium carbonate | 5.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
reactant | methyl-2-bromopropionate | 0.35 cm3 | COC(C(C)Br)=O | C4H7BrO2
solvent | water | 100 cm3 | O | H2O
product | Methyl-2-[cis-N-methyl-N-(6-methoxy-1-phenyl-1,2,3,4-tetrahydronaphthalen-2-ylmethyl) amino]propionate | 284 mg | COC(C(C)N(C[C@@H]1[C@@H](C2=CC=C(C=C2CC1)OC)C1=CC=CC=C1)C)=O | C23H29NO3
